US06740777B2
To a solution of 2-ethenyl-6-[4-(methoxycarbonyl)phenyl]methoxy-benzoic acid, methyl ester (0.71 g, 2.18 mmol) in benzene (10 mL) was added thioacetic acid (1.80 mL, 25.2 mmol) followed by AIBN (37 mg, 0.23 mmol). After nitrogen was bubbled through the solution for 30 min, the solution was heated at reflux for 4 h. The reaction was allowed to cool to rt and saturated NaHCO3 (20 mL) was added. The mixture was extracted with EtOAc (3×20 mL). The combined organic extracts were washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (1:10 EtOAc/hexanes) to give 2-[2-(acetylthio)ethyl]-6-[4-(methoxycarbonyl)phenyl]methoxy-benzoic acid, methyl ester (0.50 g, 60%) as a clear oil: 1H NMR (CDCl3) δ2.34 (s, 3H), 2.85-2.82 (m, 2H), 3.07-3.10 (m, 2H), 3.92 (s, 3H), 3.94 (s, 3H), 5.16 (s, 2H), 6.81 (d, J=8.2 Hz, 1H), 6.92 (d, J=7.7 Hz, 1H), 7.28 (t, J=8.2 Hz, 1H), 7.46 (d, J=8.3 Hz, 2H), 8.04 (d, J=8.3 Hz, 2H).

reactant | 2-ethenyl-6-[4-(methoxycarbonyl)phenyl]methoxy-benzoic acid, methyl ester | 2.18 mmol, 0.71 g | C(=C)C1=C(C(=O)OC)C(=CC=C1)OCC1=CC=C(C=C1)C(=O)OC | C19H18O5
reactant | thioacetic acid | 25.2 mmol, 1.80 mL | C(C)(=S)O | C2H4OS
reactant | AIBN | 0.23 mmol, 37 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 2-[2-(acetylthio)ethyl]-6-[4-(methoxycarbonyl)phenyl]methoxy-benzoic acid, methyl ester | 0.50 g, 60% | C(C)(=O)SCCC1=C(C(=O)OC)C(=CC=C1)OCC1=CC=C(C=C1)C(=O)OC | C21H22O6S
